US09376392B2
To a stirred solution of trimethylacetyl chloride (19 μL, 0.15 mmol) in pyridine (0.4 mL, 4.95 mmol) was added 2-(5-bromo-7-methylquinolin-6-yl)-2-(1,1,1-trifluoro-2-methylpropan-2-yloxy)ethanol (29.8 mg, 0.08 mmol) in CH2Cl2 (0.4 mL) at 0° C. The reaction mixture was allowed to warm to room temperature overnight. The mixture was quenched with water and concentrated and purified by flash column chromatography (silica gel, 0 to 20% ethyl acetate/hexanes) to give 2-(5-bromo-7-methylquinolin-6-yl)-2-(1,1,1-trifluoro-2-methylpropan-2-yloxy)ethyl pivalate. LCMS-ESI+ (m/z): [M+H]+ calc'd for C21H26BrF3NO3: 476.11; Found: 476.2.

reactant | trimethylacetyl chloride | 0.15 mmol, 19 μL | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | pyridine | 4.95 mmol, 0.4 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-(5-bromo-7-methylquinolin-6-yl)-2-(1,1,1-trifluoro-2-methylpropan-2-yloxy)ethanol | 0.08 mmol, 29.8 mg | BrC1=C2C=CC=NC2=CC(=C1C(CO)OC(C(F)(F)F)(C)C)C | C16H17BrF3NO2
solvent | CH2Cl2 | 0.4 mL | C(Cl)Cl | CH2Cl2
product | 2-(5-bromo-7-methylquinolin-6-yl)-2-(1,1,1-trifluoro-2-methylpropan-2-yloxy)ethyl pivalate | C(C(C)(C)C)(=O)OCC(OC(C(F)(F)F)(C)C)C=1C(=C2C=CC=NC2=CC1C)Br | C21H25BrF3NO3
